US08067408B2
3-[({[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)sulfonyl]-N-[(6-fluoro-3′-{[(3S)-3-methyl-1-piperazinyl]methyl}-3-biphenylyl)methyl]benzamide
A cooled solution (0° C.) of 5-(aminomethyl)-1,6-diethyl-N-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[3,4-b]pyridin-4-amine, (80 mg, 0.26 mmol) in dichloromethane (10 mL) was treated with 3-(chlorosulfonyl)benzoic acid (30 mg, 0.36 mmol) and diisopropylethylamine (0.09 mL, 0.52 mmol) and the mixture was stirred at 0° C. for 20 min. The mixture was then treated with PyBOP (100 mg, 0.31 mmol), diisopropylethylamine (0.15 mL, 0.86 mmol) and 1,1-dimethylethyl (2S)-4-{[5′-(aminomethyl)-2′-fluoro-3-biphenylyl]methyl}-2-methyl-1-piperazinecarboxylate (107 mg, 0.26 mmol) and stirred at ambient temperature for 16 h. The mixture was treated with water (40 mL) and extracted with dichloromethane (25 mL) and the organic phase was then concentrated to dryness and the intermediate Boc-protected material purified by mass-directed automated preparative HPLC. Product-containing fractions were passed though a 5 g SCX solid-phase extraction cartridge and the product eluted off with a 10% solution of ammonia in methanol, product containing fractions were concentrated to dryness. The residue was dissolved in methanol, treated with aqueous hydrochloric acid (2M, 2 mL) and stirred at ambient temperature for 16 h. The mixture was then dried (hydrophobic frit), evaporated to dryness and the product purified by mass-directed automated preparative HPLC. Product-containing fractions were passed though a 2 g SCX solid-phase extraction cartridge and the product eluted off with a 10% solution of ammonia in methanol, product-containing fractions were concentrated to dryness to afford 16 mg of the title compound. LC-MS m/z 783 (M+H)+, 0.92 min (ret time).

reactant | 5-(aminomethyl)-1,6-diethyl-N-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[3,4-b]pyridin-4-amine | 0.26 mmol, 80 mg | NCC1=C(C2=C(N=C1CC)N(N=C2)CC)NC2CCOCC2 | C16H25N5O
reactant | 3-(chlorosulfonyl)benzoic acid | 0.36 mmol, 30 mg | ClS(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C7H5ClO4S
reactant | diisopropylethylamine | 0.52 mmol, 0.09 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | PyBOP | 0.31 mmol, 100 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 0.86 mmol, 0.15 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1,1-dimethylethyl (2S)-4-{[5′-(aminomethyl)-2′-fluoro-3-biphenylyl]methyl}-2-methyl-1-piperazinecarboxylate | 0.26 mmol, 107 mg | NCC=1C=CC(=C(C1)C1=CC(=CC=C1)CN1C[C@@H](N(CC1)C(=O)OC(C)(C)C)C)F | C24H32FN3O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | water | 40 mL | O | H2O
product | 3-[({[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)sulfonyl]-N-[(6-fluoro-3′-{[(3S)-3-methyl-1-piperazinyl]methyl}-3-biphenylyl)methyl]benzamide | 16 mg | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNS(=O)(=O)C=2C=C(C(=O)NCC=1C=C(C(=CC1)F)C1=CC(=CC=C1)CN1C[C@@H](NCC1)C)C=CC2)CC | C42H51FN8O4S
